US07078405B2
8-Bromo-2-ethyl-6-methylimidazo[1,2-a]pyrazine-3-carboxylic acid methyl ester
3-Bromo-5-methyl-2-pyrazineamine (3.5 g, 18.6 mmol) and methyl 2-chloro-3-oxopentanoate (6.7 mL, 48.6 mmol) were mixed, and the mixture was heated under stirring at 130° C. for 1 hour. After being allowed to cool, the unnecessary materials were filtered off and washed with ethyl acetate, and then the filtrates were combined and evaporated. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=3:1) to give the title compound (0.32 g) as pale yellow crystals.

reactant | 3-Bromo-5-methyl-2-pyrazineamine | 18.6 mmol, 3.5 g | BrC=1C(=NC=C(N1)C)N | C5H6BrN3
reactant | methyl 2-chloro-3-oxopentanoate | 48.6 mmol, 6.7 mL | ClC(C(=O)OC)C(CC)=O | C6H9ClO3
product | 8-Bromo-2-ethyl-6-methylimidazo[1,2-a]pyrazine-3-carboxylic acid methyl ester | 0.32 g | COC(=O)C1=C(N=C2N1C=C(N=C2Br)C)CC | C11H12BrN3O2
